US07153854B2
To a solution of [4-(4-fluorophenyl)-2-methylpyrrolo-[1,2-b]pyridazin-3-yl]methanol (505 mg) and triethylamine (997 mg) in dichloromethane (4 mL) and dimethyl sulfoxide (2 mL) was added sulfur trioxide pyridine complex (941 mg) in an ice-water bath under nitrogen. After 30 minutes, the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was concentrated to about ⅓ volume. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water three times and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash silica gel chromatography (silica gel, 30 mL) eluted with hexane-chloroform=3-1 and 2-1 to give 4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazine-3-carbaldehyde as an yelow solid (340 mg, 67.9%).

reactant | [4-(4-fluorophenyl)-2-methylpyrrolo-[1,2-b]pyridazin-3-yl]methanol | 505 mg | FC1=CC=C(C=C1)C=1C=2N(N=C(C1CO)C)C=CC2 | C15H13FN2O
reactant | triethylamine | 997 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazine-3-carbaldehyde | FC1=CC=C(C=C1)C=1C=2N(N=C(C1C=O)C)C=CC2 | C15H11FN2O
